US03974156
2-Allyloxymethyl-4-n-propylmorpholine (59.7 g.) is heated under reflux in hydrochloric acid (240 ml., 20%) for 18 hours. The solution is cooled, diluted with ice and water, and basified with sodium hydroxide and extracted with ether (3 × 200 ml.). The ethereal solution is dried (MgSO4) filtered and the ether evaporated to give recovered starting material. The aqueous layer is concentrated to a small volume and precipitated salt is removed by filtration and washed with ether. The filtrate is extracted with ether (3 × 100 ml.) and the combined extracts and ethereal wash are dried (MgSO4) filtered and the ether evaporated. 2-Hydroxymethyl-4-n-propylmorpholine (16.7 g.) is obtained as a viscous oil which forms a hydrogen oxalate, m.p. 133°-135°C. after crystallisation from a methanol/ether mixture.

reactant | 2-Allyloxymethyl-4-n-propylmorpholine | 59.7 g | C(C=C)OCC1CN(CCO1)CCC | C11H21NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 240 ml | Cl | ClH
solvent | water | O | H2O
product | 2-Hydroxymethyl-4-n-propylmorpholine | 16.7 g | OCC1CN(CCO1)CCC | C8H17NO2
